US08202868B2
c.2.2: (R)-Acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester
3.87 g of 2-tert-butyl-4-cyclobutyl-6-piperazin-1-yl-pyrimidine (14.1 mmol) were stirred in 30 ml of dimethylformamide at room temperature. 3.18 g of triethylamine (63.1 mmol), 0.235 g of sodium iodide (1.57 mmol), 3.01 g of (S)-(+)-1-acetoxy-3-bromo-2-methyl-propane (15.7 mmol) were added. The reaction mixture was stirred for 16 h at room temperature. Stirring was continued for 2 h at 95-105° C. The dimethylformamide was removed by evaporation under reduce pressure. The residue was partitioned between 100 ml of dichloromethane and 100 ml of water. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure to give the crude product as a brownish oil (5.81 g).

reactant | 2-tert-butyl-4-cyclobutyl-6-piperazin-1-yl-pyrimidine | 14.1 mmol, 3.87 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCNCC1 | C16H26N4
reactant | triethylamine | 63.1 mmol, 3.18 g | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.57 mmol, 0.235 g | [I-].[Na+]
reactant | (S)-(+)-1-acetoxy-3-bromo-2-methyl-propane | 15.7 mmol, 3.01 g | C(C)(=O)OC[C@@H](CBr)C | C6H11BrO2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (R)-Acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester | 5.81 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@H](COC(C)=O)C)C1CCC1 | C22H36N4O2
